US07674822B2
6-Benzylcarbamoyl-l-carboxymethoxy-3,8-dithia-cyclopenta[a]indene-2-carboxylic acid
Following General Procedure A, 6-benzylcarbamoyl-1-ethoxycarbonylmethoxy-3,8-dithia-cyclopenta[a]indene-2-carboxylic acid methyl ester (9 mg, 0.02 mmol) was stirred in THF (1 ml) and water (1 ml) for 17 hr. Work-up yielded 5 mg (63%) of title compounds as a light yellow solid.

reactant | 6-benzylcarbamoyl-1-ethoxycarbonylmethoxy-3,8-dithia-cyclopenta[a]indene-2-carboxylic acid methyl ester | 0.02 mmol, 9 mg | COC(=O)C1=C(C2=C(C=3C=CC(=CC3S2)C(NCC2=CC=CC=C2)=O)S1)OCC(=O)OCC | C24H21NO6S2
reactant | water | 1 ml | O | H2O
solvent | THF | 1 ml | C1CCOC1 | C4H8O
product | 6-Benzylcarbamoyl-l-carboxymethoxy-3,8-dithia-cyclopenta[a]indene-2-carboxylic acid | 5 mg, 63% | C(C1=CC=CC=C1)NC(=O)C1=CC=2SC3=C(C2C=C1)SC(=C3OCC(=O)O)C(=O)O | C21H15NO6S2
